US04239887
4-Mercapto-7-methylpyrido[3',2':4,5]thieno[3,2-d]-1,2,3-triazine
A mixture of 7 g. (0.03 M) of 4-chloro-7-methylpyrido[3',2':4,5]thieno[3,2-d]-1,2,3-triazine, and 7 g. (0.09 M) of thiourea in 350 ml. ethanol was refluxed for 2 hours. It was then cooled and filtered. The crude product was dissolved in 5% NaOH, and treated with charcoal and filtered. Acidification with HOAC followed by filtration yielded yellow solid, m.p. 205°-208° C.

reactant | 4-chloro-7-methylpyrido[3',2':4,5]thieno[3,2-d]-1,2,3-triazine | 0.03 M | ClC=1C2=C(N=NN1)C1=C(S2)N=C(C=C1)C | C9H5ClN4S
reactant | thiourea | 0.09 M | NC(=S)N | CH4N2S
solvent | ethanol | C(C)O | C2H6O
product | 4-Mercapto-7-methylpyrido[3',2':4,5]thieno[3,2-d]-1,2,3-triazine | SC=1C2=C(N=NN1)C1=C(S2)N=C(C=C1)C | C9H6N4S2
